US06251926B1
To a solution of sodium ethoxide prepared from sodium (1.70 g) and ethanol (40 ml) was added dropwise a solution of 2-(3-benzoylphenyl)acetonitrile (13.6 g) in ethanol (30 ml) at 0° C., and then isoamyl nitrite (12.4 ml) was added dropwise. After stirring at room temperature for 15 hours, the reaction mixture was diluted with ethyl acetate and washed successively with 1N hydrochloric acid and an aqueous saturated solution of sodium chloride. The ethyl acetate layer was dried (MgSO4) and concentrated to obtain 2-(3-benzoylphenyl)-2-(hydroxyimino)acetonitrile (15.2 g, yield 99%) as crystals. Recrystallization from ethyl acetate-hexane gave an isomer of 2-(3-benzoylphenyl)-2-(hydroxyimino)acetonitrile as colorless crystals. m.p. 175-176° C.

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 1.70 g | [Na] | Na
reactant | 2-(3-benzoylphenyl)acetonitrile | 13.6 g | C(C1=CC=CC=C1)(=O)C=1C=C(C=CC1)CC#N | C15H11NO
reactant | isoamyl nitrite | 12.4 ml | N(=O)OCCC(C)C | C5H11NO2
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 2-(3-benzoylphenyl)-2-(hydroxyimino)acetonitrile | 15.2 g, yield 99% | C(C1=CC=CC=C1)(=O)C=1C=C(C=CC1)C(C#N)=NO | C15H10N2O2
